US08350090B1
(R)-2-(3-(benzyloxy)benzyl)-4-hydroxycyclopent-2-enone (0.5 g, 1.7 mmol) and dihydropyrane (0.34 g, 4 mmol) was dissolved in CH2Cl2 (5 ml), p-toluenesulfonic acid (0.2 g) was added to the solution at 10° C., and the mixture was stirred at room temperature overnight. After the reaction was completed, the mixture was washed with sat. NaHCO3 aq., dried over MgSO4, and evaporated. The resulting residue was dissolved in EtOH (5 ml) under hydrogen, Pd/C (0.15 g) was added to the solution and the mixture was stirred at room temperature for 2 hrs. After the reaction was completed, the reaction mixture was filtered to remove the Pd/C and the filtrate was evaporated. The resulting residue was dissolved in EtOAc (5 ml), imidazole (0.24 g, 3.5 mmol) and tert-butyldimethylsilyl chloride (0.38 g, 2.55 mmol) was added to the solution and the mixture was stirred at 50° C. for 4 hrs. After the reaction was completed, the reaction mixture was filtered to remove the precipitate and washed with NaHCO3 and extracted with EtOAc. The organic layer was dried over MgSO4, and evaporated. The residue was purified by chromatography on a silica gel column using hexane-EtOAc as eluent to give (4R)-2-(3-(tert-butyldimethylsilyloxy)benzyl)-4-(tetrahydro-2H-pyran-2-yloxy)cyclopent-2-e none as yellow oil: 0.47 g (yield: 69%,)

reactant | (R)-2-(3-(benzyloxy)benzyl)-4-hydroxycyclopent-2-enone | 1.7 mmol, 0.5 g | C(C1=CC=CC=C1)OC=1C=C(CC=2C(C[C@H](C2)O)=O)C=CC1 | C19H18O3
reactant | dihydropyrane | 4 mmol, 0.34 g | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | imidazole | 3.5 mmol, 0.24 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 2.55 mmol, 0.38 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | (4R)-2-(3-(tert-butyldimethylsilyloxy)benzyl)-4-(tetrahydro-2H-pyran-2-yloxy)cyclopent-2-e none | yield: 69% | [Si](C)(C)(C(C)(C)C)OC=1C=C(CC=2C(C[C@H](C2)OC2OCCCC2)=O)C=CC1 | C23H34O4Si
